US08138347B2
To a cooled (0° C.) solution of 5-bromo-2-(methyloxy)-3-pyridinamine (20.3 g, 100 mmol) in pyridine (200 mL) was added slowly 2,4-difluorobenzenesulfonyl chloride (21.3 g, 100 mmol) over 15 min (reaction became heterogeneous). The ice bath was removed and the reaction was stirred at ambient temperature for 16 h, at which time the reaction was diluted with water (500 mL) and the solids filtered off and washed with copious amounts of water. The precipitate was dried in a vacuum oven at 50° C. to give N-[5-bromo-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide (12 g, 31.6 mmol, 31.7% yield) MS(ES)+ m/e 379.0, 380.9 [M+H]+.

reactant | 5-bromo-2-(methyloxy)-3-pyridinamine | 100 mmol, 20.3 g | BrC=1C=C(C(=NC1)OC)N | C6H7BrN2O
reactant | 2,4-difluorobenzenesulfonyl chloride | 100 mmol, 21.3 g | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-bromo-2-(methyloxy)-3-pyridinyl]-2,4-difluorobenzenesulfonamide | 31.6 mmol, 12 g, 31.7% yield | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C12H9BrF2N2O3S
